US05753664
6-Ethyl-7-methyl-1-[4-[4-(2-morpholinoethoxy)benzoyl]benzyl]imidazo[1,2-a]pyrimidin-5(1H)-one hydrochloride
A solution of 6-ethyl-1-[4-(4-hydroxybenzoyl)-benzyl]-7-methylimidazo[1,2-a]pyrimidin-5(1H)-one (136 mg), 4-(2-chloroethyl)morpholine hydrochloride (154 mg) and potassium carbonate (205 mg) in DMF (7 ml) was stirred at 100° C. for 6 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was collected by filtration and dried to provide the title compound as colorless solid (132 mg).

reactant | 6-ethyl-1-[4-(4-hydroxybenzoyl)-benzyl]-7-methylimidazo[1,2-a]pyrimidin-5(1H)-one | 136 mg | C(C)C1=C(N=C2N(C1=O)C=CN2CC2=CC=C(C=C2)C(C2=CC=C(C=C2)O)=O)C | C23H21N3O3
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 154 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 205 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 6-Ethyl-7-methyl-1-[4-[4-(2-morpholinoethoxy)benzoyl]benzyl]imidazo[1,2-a]pyrimidin-5(1H)-one hydrochloride | 132 mg | Cl.C(C)C1=C(N=C2N(C1=O)C=CN2CC2=CC=C(C=C2)C(C2=CC=C(C=C2)OCCN2CCOCC2)=O)C | InChI=1S/C29H32N4O4.ClH/c1-3-26-21(2)30-29-32(12-13-33(29)28(26)35)20-22-4-6-23(7-5-22)27(34)24-8-10-25(11-9-24)37-19-16-31-14-17-36-18-15-31;/h4-13H,3,14-20H2,1-2H3;1H
